US09163012B2
(R)-3-(5-Cyano-2-oxo-2H-pyridin-1-yl)-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester (ca. 1:1 mixture of cis- and trans-isomer)
Diethyl azodicarboxylate (40% in toluene, 1.7 mL) is added to a mixture of (S)-3-hydroxy-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester (ca. 1:1 mixture of cis- and trans-isomer, 0.50 g), 6-oxo-1,6-dihydro-pyridine-3-carbonitrile (0.22 g), triphenylphosphine (0.97 g), and tetrahydrofuran (10 ml) at room temperature. The resulting mixture is stirred for 2 h and then concentrated. The residue is chromatographed on silica gel (ethyl acetate/methanol 95:5→80:20) and then on reversed phase (HPLC, acetonitrile/water containing 1.36% trifluoroacetic acid) to give the title compound as a mixture of two diastereomers (cis/trans ca. 1:1). Yield: 8 mg (1% of theory); LC (method 1): tR=1.03/1.06 min; Mass spectrum (ESI+): m/z=384 [M+H]+.

reactant | Diethyl azodicarboxylate | 1.7 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (S)-3-hydroxy-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester | 0.50 g | OC12CC3C(C(CC(C1)C3)C2)OC(=O)N2C[C@H](CC2)O | C15H23NO4
reactant | 6-oxo-1,6-dihydro-pyridine-3-carbonitrile | 0.22 g | O=C1C=CC(=CN1)C#N | C6H4N2O
reactant | triphenylphosphine | 0.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (R)-3-(5-Cyano-2-oxo-2H-pyridin-1-yl)-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester | OC12CC3C(C(CC(C1)C3)C2)OC(=O)N2C[C@@H](CC2)N2C(C=CC(=C2)C#N)=O | C21H25N3O4
